US05084085
To a stirred solution of 5.0 g (0.017 mole) of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 150 mL of N,N-dimethylformamide was added 2.8 g (0.020 mole) of potassium carbonate. The resultant mixture was stirred for ten minutes, and 2.1 g (0.017 mole) of 4-fluorobenzonitrile was added. The mixture was stirred and heated at 120° C. for approximately 18 hours. The solvent was removed from the mixture by distillation under reduced pressure leaving a residue which was partitioned between diethyl ether and water. The organic phase was separated, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure to give 4.4 g of 1-[4-chloro-5-(4-cyanophenoxy)-2-fluorophenyl]-4-difluoromethyl -4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.017 mole, 5.0 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
reactant | potassium carbonate | 0.020 mole, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzonitrile | 0.017 mole, 2.1 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 1-[4-chloro-5-(4-cyanophenoxy)-2-fluorophenyl]-4-difluoromethyl -4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 4.4 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)C#N)N1N=C(N(C1=O)C(F)F)C)F | C17H10ClF3N4O2
